US07807709B2
c. 4-tert-Butyl-3-(3-methoxy-propoxy)-benzoic acid methyl ester
A mixture of 4-tert-butyl-3-hydroxy-benzoic acid methyl ester (1.56 g, 7.49 mmol), 3-bromopropyl methyl ether (1.72 g, 11.2 mmol) and anhydrous K2CO3 (1.55 g, 11.2 mmol) in MeCN (30 mL) is refluxed overnight. After cooling, the mixture is filtered, the filtrate is diluted with CH2Cl2 and the organics are washed with aqueous 0.5M NaOH, aqueous 0.5M HCl and water, dried (Na2SO4) and concentrated. Purification by flash chromatography on silica gel (hexane/AcOEt 97:3) gives the title compound as colorless oil. MS: 281.1 [M+H]+. tR (HPLC, Nucleosil C18HD column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 6.22 min. 1H-NMR (CDCl3): δ 1.43 (s, 9H), 2.17 (m, 2H), 3.41 (s, 3H), 3.65 (m, 2H), 3.93 (s, 3H), 4.18 (m, 2H), 7.36 (dd, 1H), 7.96 (d, 1H), 7.60 (dd, 1H) ppm.

reactant | 4-tert-butyl-3-hydroxy-benzoic acid methyl ester | 7.49 mmol, 1.56 g | COC(C1=CC(=C(C=C1)C(C)(C)C)O)=O | C12H16O3
reactant | 3-bromopropyl methyl ether | 11.2 mmol, 1.72 g | COCCCBr | C4H9BrO
reactant | K2CO3 | 11.2 mmol, 1.55 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 4-tert-Butyl-3-(3-methoxy-propoxy)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C(C)(C)C)OCCCOC)=O | C16H24O4
